US05117057
Preparation of N'-t-butyl-N-benzoyl-N'-(2-furoyl)hydrazine
N'-t-butyl-N-benzoylhydrazine (1 g) was dissolved in 20 ml toluene. Water (5 ml) and 50% aqueous sodium hydroxide (1.25 g) was added followed by 2-furoylchloride (0.68 g). After stirring for 7 hours at room temperature, 0.3 g 2-furoylchloride was added and the mixture stirred for a further 6 hours. The solid product, N'-t-butyl-N-benzoyl-N'-(2-furoyl)hydrazine, was removed by filtration and washed with water. m.p. 155°-175° C.

reactant | N'-t-butyl-N-benzoylhydrazine | 1 g | C(C)(C)(C)NNC(C1=CC=CC=C1)=O | C11H16N2O
reactant | Water | 5 ml | O | H2O
reactant | sodium hydroxide | 1.25 g | [OH-].[Na+]
reactant | 2-furoylchloride | 0.68 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | 2-furoylchloride | 0.3 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N'-t-butyl-N-benzoyl-N'-(2-furoyl)hydrazine | C(C)(C)(C)N(NC(C1=CC=CC=C1)=O)C(=O)C=1OC=CC1 | C16H18N2O3
